US09056859B2
The crude (4-iodo-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde (1.2 g) was dissolved in DCM (40 mL). Boc-piperazine (1.1 g, 5.9 mmol) was added into the solution, followed by addition of sodium triacetoxyborohydride (4.2 g, 20 mmol). The reaction was allowed to stir at RT overnight. The reaction was diluted with DCM, washed with sodium bicarbonate and brine, dried over MgSO4, and purified by silica gel chromatography to furnish tert-butyl-4-[2-(4-iodo-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate. LC-MS (IE, m/z): 473 [M+1]+.

reactant | (4-iodo-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | 1.2 g | IC1=C(C=CC=2C(OCC21)=O)CC=O | C10H7IO3
reactant | Boc-piperazine | 5.9 mmol, 1.1 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium triacetoxyborohydride | 20 mmol, 4.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl-4-[2-(4-iodo-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)CCC1=C(C2=C(C(OC2)=O)C=C1)I | C19H25IN2O4
